US07384961B2
5.00 g tetrahydrothiopyran-4-one were dissolved in 15 ml acetonitrile, and 4.03 g N,N-dimethyl-methylenammonium chloride, followed by 40 μl acetyl chloride, were added. After the mixture had been stirred at a bath temperature of 60° C. for 45 minutes, it was stirred at room temperature for 60 hours and the precipitate formed was filtered off with suction and dried. 8.17 g 3-dimethylaminomethyl-tetrahydrothiopyran-4-one hydrochloride with a melting point of 155-157° C. were obtained. The corresponding base was liberated from this with methylene chloride and sodium hydroxide solution (32 percent strength by weight).

reactant | tetrahydrothiopyran-4-one | 5.00 g | S1CCC(CC1)=O | C5H8OS
reactant | N,N-dimethyl-methylenammonium chloride | 4.03 g | [Cl-].C[N+](C)=C
reactant | acetyl chloride | 40 μl | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-dimethylaminomethyl-tetrahydrothiopyran-4-one hydrochloride | 8.17 g | Cl.CN(C)CC1CSCCC1=O | InChI=1S/C8H15NOS.ClH/c1-9(2)5-7-6-11-4-3-8(7)10;/h7H,3-6H2,1-2H3;1H
